US03995056
315 mg of phosphoric anhydride were added to a solution of 1.12 g of ethyl 4-(m-benzoyl-phenyl)-3-hydroxybutyrate in 20 ml of xylene and the mixture was refluxed for 2 hours and then cooled to room temperature. The organic phase was washed with water, then with an aqueous saturated sodium bicarbonate solution and then water, dried over sodium sulfate, treated with activated carbon, filtered and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with methylene chloride which was evaporated to dryness to obtain ethyl 4-(m-benzoylphenyl)-3-butenoate whose ultraviolet spectrum was in accord with the structure.

reactant | phosphoric anhydride | 315 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethyl 4-(m-benzoyl-phenyl)-3-hydroxybutyrate | 1.12 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(CC(=O)OCC)O | C19H20O4
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 4-(m-benzoylphenyl)-3-butenoate | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C=CCC(=O)OCC | C19H18O3
